US08541574B2
First, 5.06 g of 2,3-dichloropyrazine, 5.23 g of 4-fluorophenyl boronic acid, 22.16 g of cesium carbonate, and 200 mL of dioxane were put in a three-neck flask equipped with a reflux pipe, and 0.467 g of tris(dibenzylideneacetone)dipalladium(0) (abbreviation: Pd2(dba)3) and 2.5 mL of tricyclohexylphosphine (abbreviation: Cy3P) were added thereto while the mixture was stirred under a nitrogen atmosphere, and they were reacted at 85° C. for 11 hours. After the reaction, the reaction solution was cooled down to room temperature and filtrated. A solvent of the obtained filtrate was distilled off, and the obtained residue was refined with a column chromatography using dichloromethane as a development solvent, so that 2-chloro-3-(4-fluorophenyl)pyrazine was obtained (light yellow powder, yield: 55%). A synthesis scheme of Step 1 is shown by the following (a1-1).

reactant | 2,3-dichloropyrazine | 5.06 g | ClC1=NC=CN=C1Cl | C4H2Cl2N2
reactant | 4-fluorophenyl boronic acid | 5.23 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | cesium carbonate | 22.16 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | tricyclohexylphosphine | 2.5 mL | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.467 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | 200 mL | O1CCOCC1 | C4H8O2
product | 2-chloro-3-(4-fluorophenyl)pyrazine | yield: 55% | ClC1=NC=CN=C1C1=CC=C(C=C1)F | C10H6ClFN2
